US07910607B2
Synthesis of Chlorambucil-TEMPOL Adduct
DCC coupling reaction was used to couple the carboxylic group of chlorambucil with the hydroxyl group of TEMPOL with the loss of a water molecule. To a stirred solution of TEMPOL (0.172 g, 1 mmol) and chlorambucil (0.304 g, 1 mmol) in methylene chloride (5 ml) at 0° C. under argon, DCC (0.206 g, 1 mmol) (Dicyclohexyl carbodiimide) and DMAP (0.0307 g, 0.25 mmol) (Dimethyl amino pyridine) were added and the reaction mixture was stirred for 12 hrs at room temperature. The solid materials formed were filtered off, and the filtrate was washed with 1 M HCl (1 ml) followed by saturated NaHCO3 (2 ml) and brine (2 ml). The organic phase was dried over MgSO4 and evaporated in vacuum to give 0.4 g of CT corresponding to a yield of 87%. TLC (Thin Layer Chromatography) of the product showed a single spot only.

reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | chlorambucil | C1=CC(=CC=C1CCCC(=O)O)N(CCCl)CCCl | C14H19Cl2NO2
reactant | TEMPOL | CC1(CC(CC(N1[O])(C)C)O)C | C9H18NO2
reactant | water | O | H2O
reactant | TEMPOL | 1 mmol, 0.172 g | CC1(CC(CC(N1[O])(C)C)O)C | C9H18NO2
reactant | chlorambucil | 1 mmol, 0.304 g | C1=CC(=CC=C1CCCC(=O)O)N(CCCl)CCCl | C14H19Cl2NO2
reactant | DCC | 1 mmol, 0.206 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.25 mmol, 0.0307 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | Chlorambucil TEMPOL | yield of 87% | C1=CC(=CC=C1CCCC(=O)O)N(CCCl)CCCl.CC1(CC(CC(N1[O])(C)C)O)C | InChI=1S/C14H19Cl2NO2.C9H18NO2/c15-8-10-17(11-9-16)13-6-4-12(5-7-13)2-1-3-14(18)19;1-8(2)5-7(11)6-9(3,4)10(8)12/h4-7H,1-3,8-11H2,(H,18,19);7,11H,5-6H2,1-4H3
